US03956314
4p-chlorophenyl-5-methyl-2-pyrrolidinone
A mixture of 150 g. (2 mole) of nitroethane, 105 g. (0.5 mole) of ethyl-p-chlorocinnamate and 6.6 g. of Triton B (a 35% solution of trimethyl-benzyl-ammonium hydroxide in methanol) is heated for 20 hours at 80°C. After the reaction has finished, toluene is added, washing is carried out with a saturated solution of sodium chloride and the organic solution is dried and evaporated to dryness and the residue is distilled. Yield: 80%; B.P.: 150°-155°C./0.3 mm.Hg.

reactant | nitroethane | 2 mole | [N+](=O)([O-])CC | C2H5NO2
reactant | ethyl-p-chlorocinnamate | 0.5 mole | C(C)OC(C=CC1=CC=C(C=C1)Cl)=O | C11H11ClO2
reactant | trimethyl-benzyl-ammonium hydroxide | [OH-].C[N+](CC1=CC=CC=C1)(C)C
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | 4p-chlorophenyl-5-methyl-2-pyrrolidinone | ClC1=CC=C(C=C1)C1CC(NC1C)=O | C11H12ClNO
